US06599917B1
e) 3-[2-Benzyl-6-(5,6-dihydro-2H-pyran-4-yl)-3-pyridyl]ethynyl-3-quinuclidinol
A mixture of 60.7 g of 2-benzyl-6-(5,6-dihydro-2H-pyran-4-yl)-3-pyridyl trifluoromethane sulfonate, 23.0 mg of 3-ethynyl-3-quinuclidinol, 17.6 mg of tetrakis(triphenylphosphine)palladium(0), 2.9 mg of cuprous iodide, 63.6 μl of triethylamine and 1 ml of N,N-dimethylformamide was stirred at 60° C. for 1.5 hours in a nitrogen atmosphere. NH-silica gel was added to the reaction solution, and the solvent was removed. The residue was subjected to NH-silica gel column chromatography using 3% methanol/ethyl acetate, to give 40.7 mg of the target compound.

reactant | 2-benzyl-6-(5,6-dihydro-2H-pyran-4-yl)-3-pyridyl trifluoromethane sulfonate | 60.7 g | FC(S(=O)(=O)OC=1C(=NC(=CC1)C1=CCOCC1)CC1=CC=CC=C1)(F)F | C18H16F3NO4S
reactant | 3-ethynyl-3-quinuclidinol | 23.0 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 63.6 μl | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 17.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-[2-Benzyl-6-(5,6-dihydro-2H-pyran-4-yl)-3-pyridyl]ethynyl-3-quinuclidinol | 40.7 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1C#CC1(CN2CCC1CC2)O)C2=CCOCC2 | C26H28N2O2
